
* Sim 6i Scenario A — Lightning surge on +5V_BEC line (IEC 61000-4-5 simplified)
Vsurge surge_in 0 PWL(0 0 1.2u 30 50u 15 100u 0)
Rsrc surge_in node_in 50
Lparasitic node_in node_5vbec 22u
Cbus node_5vbec 0 100u
* SMAJ6.0A TVS as 6.8V Zener + ESR
* Real: V_BR=6.67min, V_C=10.3 @ I=100A
* Simplified: Vz=6.8V + 0.05ohm series + 3nF junction cap
Dtvs node_5vbec gnd_t DZENER
Rtvs gnd_t 0 0.05
Ctvs node_5vbec 0 3n
.MODEL DZENER D(BV=6.8 IS=1e-12 RS=0.01 CJO=3p)
.TRAN 0.1u 200u
.CONTROL
run
print v(node_5vbec) at=20u v(node_5vbec) at=50u v(node_5vbec) at=100u
print max v(node_5vbec)
quit
.ENDC
.END
